### PR TITLE
Continue PR1206

### PR DESCRIPTION
**Pull request by rmatthes**
I would like to help in finishing the work that went into PR #1206.

The first step was to make it compile with the recent changes to master.

It could be that the PR is ready to be pulled.

### CODE REVIEW

**Comment by rmatthes** [comment]
I did less than I had in mind in the beginning. But I consider the PR ready for review.

File: UniMath/Induction/M/Chains.v [hunk 1]
```diff
@@ -241,3 +245,161 @@ Proof.
       apply (@weqsecovercontr_uncurried
                nat (λ n, (S (S u)) = n) (λ _ _, _ = xs (S u)) (iscontr_paths_from _)).
 Defined.
+
+
+(** Lemma 11 in Ahrens, Capriotti, and Spadotti *)
+Local Definition Z X l :=
+ ∑ (x : ∏ n, X n), ∏ n, x (S n) = l n (x n).
+Lemma lemma_11 (X : nat -> UU) (l : ∏ n, X n -> X (S n)) : Z X l ≃ X 0.
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]:
```suggestion
Local Lemma lemma_11 (X : nat -> UU) (l : ∏ n, X n -> X (S n)) : Z X l ≃ X 0.
```

File: UniMath/Induction/M/Chains.v [hunk 2]
```diff
@@ -241,3 +245,161 @@ Proof.
...
+     rewrite pathsinv0l.
+     rewrite pathsinv0inv0.
+     rewrite pathscomp0rid.
+     reflexivity.
+ - cbn.
+   reflexivity.
+Defined.
+
+(* Maybe easier to apply in Lemma *)
+Definition lemma_11_unfolded (X : nat -> UU) (l : ∏ n, X n -> X (S n)) :
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]:
```suggestion
Local Definition lemma_11_unfolded (X : nat -> UU) (l : ∏ n, X n -> X (S n)) :
```

File: UniMath/Induction/M/Limits.v [hunk 3]
```diff
@@ -4,9 +4,7 @@
   theory" by Jeremy Avigad, Chris Kapulkin, and Peter LeFanu Lumsdaine
   (arXiv:1304.0680v3).
 
-  Eventually, this should probably be moved into CategoryTheory, but there is
-  no proof of the universal property ([isLimCone]) as phrased in
-  [CategoryTheory.limits.graphs.limits]. *)
+  Eventually, this should probably be moved into CategoryTheory. *)
```
Comment (siddharthist) [inline UniMath/Induction/M/Limits.v]: I actually don't think this construction can be modified to suit the usual (1-categorical) defintion of a limit, so I think this comment should be removed.
